US05539112
505 mg (1.29 mmol) of 5-amino-6,8-difluoro-2-(3-fluoro-4-pivaloylaminophenyl)-4H-1-benzopyran-4-one was dissolved in 15 ml of dimethylformamide under argon atmosphere, 156 mg of sodium hydride (60% oil dispersion) and 0.38 ml of 1-iodohexane were added under ice-cooling and the mixture was stirred at the same temperature for 30 minutes. 0.19 ml of 1-iodohexane was added and the mixture was stirred for additional 2 hours. An aqueous saturated solution of ammonium chloride was added to the reaction solution and the mixture was extracted twice with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=5:1) to give 487 mg (79%) of 6,8-difluoro-2-(3-fluoro-4-pivaloylaminophenyl)-5-hexylamino-4H-1-benzopyran-4-one.

reactant | 5-amino-6,8-difluoro-2-(3-fluoro-4-pivaloylaminophenyl)-4H-1-benzopyran-4-one | 1.29 mmol, 505 mg | NC1=C(C=C(C2=C1C(C=C(O2)C2=CC(=C(C=C2)NC(C(C)(C)C)=O)F)=O)F)F | C20H17F3N2O3
reactant | sodium hydride | 156 mg | [H-].[Na+]
reactant | 1-iodohexane | 0.38 ml | ICCCCCC | C6H13I
reactant | 1-iodohexane | 0.19 ml | ICCCCCC | C6H13I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 6,8-difluoro-2-(3-fluoro-4-pivaloylaminophenyl)-5-hexylamino-4H-1-benzopyran-4-one | 487 mg, 79% | FC=1C=C(C2=C(C(C=C(O2)C2=CC(=C(C=C2)NC(C(C)(C)C)=O)F)=O)C1NCCCCCC)F | C26H29F3N2O3
